US07868003B2
3-[2-((R)-6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-5,5-dimethylimidazolidine-2,4-dione hydrochloride
(R)-2-(6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenylamine (50 mg, enantiomer B, preparation as described in WO2004085404) was dissolved in absolute dichloromethane (5 ml), and methyl 2-isocyanato-2-methylpropionate was added dropwise with stirring. After being stirred for 3 h and left to stand overnight, the mixture was admixed with water, the phases were separated and the aqueous phase was extracted twice with dichloromethane. The combined organic phases were dried over magnesium sulfate, filtered and concentrated. The residue was purified by means of preparative HPLC. The fractions comprising product were purified, the acetonitrile was removed on a rotary evaporator, and the aqueous residue was neutralized with saturated potassium carbonate solution and extracted three times with ethyl acetate. After the combined ethyl acetate phases had been dried over magnesium sulfate, they were filtered and concentrated to dryness. The residue was dissolved in acetonitrile (1 ml) and admixed with 10% hydrochloric acid. After stirring for 2 h, the mixture was diluted with water (3 ml) and freeze-dried. 68 mg of the title compound were obtained.

reactant | (R)-2-(6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenylamine | 50 mg | ClC=1C=C2[C@@H](CN(CC2=C(C1)Cl)C)C1=C(C=CC=C1)N | C16H16Cl2N2
reactant | methyl 2-isocyanato-2-methylpropionate | N(=C=O)C(C(=O)OC)(C)C | C6H9NO3
reactant | water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-[2-((R)-6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-5,5-dimethylimidazolidine-2,4-dione hydrochloride | 68 mg | Cl.ClC=1C=C2[C@@H](CN(CC2=C(C1)Cl)C)C1=C(C=CC=C1)N1C(NC(C1=O)(C)C)=O | InChI=1S/C21H21Cl2N3O2.ClH/c1-21(2)19(27)26(20(28)24-21)18-7-5-4-6-13(18)15-10-25(3)11-16-14(15)8-12(22)9-17(16)23;/h4-9,15H,10-11H2,1-3H3,(H,24,28);1H/t15-;/m0./s1
